US04720586
(a) Methyl 4-(2-phenylethylaminocarbonyl)benzoate
N,N'-Carbonyldiimidazole (16.2 g, 0.1 mole) was added portionwise under nitrogen to 1,4-benzenedicarboxylic acid monomethyl ester (18 g, 0.1 mole) in dry dichloromethane (250 ml) and stirred for 1 hour. Benzeneethanamine (12.1 g, 0.1 mole) was added and the reaction stirred for 3 hours. The solution was washed with dilute hydrochloric acid, aqueous sodium bicarbonate solution and water, dried and evaporated. The residue, on trituration with ether, afforded the sub-title compound (23.8 g) as a white solid mp 148°.

reactant | 1,4-benzenedicarboxylic acid monomethyl ester | 0.1 mole, 18 g | COC(=O)C1=CC=C(C=C1)C(=O)O | C9H8O4
reactant | Benzeneethanamine | 0.1 mole, 12.1 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Methyl 4-(2-phenylethylaminocarbonyl)benzoate | 23.8 g | C1(=CC=CC=C1)CCNC(=O)C1=CC=C(C(=O)OC)C=C1 | C17H17NO3
